US06407111B1
d) 4-Benzoyl-6-(4-methyl-piperazin-1-yl)-nicotinic acid 2-amino-2-methyl-propyl ester
To a solution of 1.13 g (3 mmol) [5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-phenyl-methanone in 30 ml tetrahydrofuran were added 3 ml of 2 N aqueous hydrochloric acid and the reaction mixture was heated at 50° C. for 18 h. After cooling to room temperature, 1 N sodium hydroxide solution was added to adjust pH 11 and the mixture was extracted with ethyl acetate. The organic layer was dried (magnesium sulfate) and evaporated to yield 1.18 g (quantitative) of the product as yellow oil.

reactant | [5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-phenyl-methanone | 3 mmol, 1.13 g | CC1(N=C(OC1)C=1C(=CC(=NC1)N1CCN(CC1)C)C(=O)C1=CC=CC=C1)C | C22H26N4O2
reactant | hydrochloric acid | 2 N, 3 ml | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-Benzoyl-6-(4-methyl-piperazin-1-yl)-nicotinic acid 2-amino-2-methyl-propyl ester | NC(COC(C1=CN=C(C=C1C(C1=CC=CC=C1)=O)N1CCN(CC1)C)=O)(C)C | C22H28N4O3
